US09034866B2
Synthesis of 10-(3-hydroxy-3-(1,3,4-thiadiazol-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-(1,3,4-thiadiazol-2-yl)but-3-yn-2-ol to give the titled compound as an off-white solid (1.7 mg, 2%).

reactant | 10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1 | C12H10BrN3O2
reactant | 2-(1,3,4-thiadiazol-2-yl)but-3-yn-2-ol | S1C(=NN=C1)C(C)(C#C)O | C6H6N2OS
product | 10-(3-hydroxy-3-(1,3,4-thiadiazol-2-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 1.7 mg, 2% | OC(C#CC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)(C)C=1SC=NN1 | C18H15N5O3S
